US07157464B2
Synthesis of 4-chloro-5-Ethyl-3-trifluoromethyl-1H-pyrazole
Following protocol L, 5-ethyl-3-trifluoromethyl-1H-pyrazole was treated with NCS in CH3CN to yield title compound

reactant | 5-ethyl-3-trifluoromethyl-1H-pyrazole | C(C)C1=CC(=NN1)C(F)(F)F | C6H7F3N2
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CH3CN | CC#N | C2H3N
product | 4-chloro-5-Ethyl-3-trifluoromethyl-1H-pyrazole | ClC=1C(=NNC1CC)C(F)(F)F | C6H6ClF3N2
